US06706751B2
To 60.4 mg (0.2 mmol) Allyl-methyl-[6-(1,2,3,4-tetrahydro-quinolin-6-yloxy)-hexyl]-amine in 2 ml CH2Cl2 1 drop of Huenig's base and 57 mg (0.3 mmol) 4-chlorophenyl chloroformate in 1 ml CH2Cl2 were added. The solution was stirred at RT for 30 min, was concentrated and the residue was dissolved in ether and a saturated aqueous solution of NaHCO3. The inorganic phase was extracted with ether and the combined organic phases were washed with water and dried over Na2SO4. Column chromatography on silica gel with CH2Cl2/MeOH 19:1 yielded 46 mg (50%) 6-[6-(Allyl-methyl-amino)-hexyloxy]-3,4-dihydro-2H-quinoline-1-carboxylic acid 4-chloro-phenyl ester as colorless oil, MS: 457 (MH+, 1Cl).

reactant | Allyl-methyl-[6-(1,2,3,4-tetrahydro-quinolin-6-yloxy)-hexyl]-amine | 0.2 mmol, 60.4 mg | C(C=C)N(CCCCCCOC=1C=C2CCCNC2=CC1)C | C19H30N2O
reactant | Huenig's base | CCN(C(C)C)C(C)C | C8H19N
reactant | 4-chlorophenyl chloroformate | 0.3 mmol, 57 mg | ClC(=O)OC1=CC=C(C=C1)Cl | C7H4Cl2O2
catalyst | CH2Cl2 | 2 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 1 ml | C(Cl)Cl | CH2Cl2
product | 6-[6-(Allyl-methyl-amino)-hexyloxy]-3,4-dihydro-2H-quinoline-1-carboxylic acid 4-chloro-phenyl ester | 46 mg, 50% | ClC1=CC=C(C=C1)OC(=O)N1CCCC2=CC(=CC=C12)OCCCCCCN(C)CC=C | C26H33ClN2O3
